US04788206
As in Example 115, (2E,4Z)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid (3.2 g) and 4-nitrophenol (2.2 g) in 20 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide (2.7 g) and the mixture was stirred at room temperature for 18 hours. After the usual work up, crystallization of the crude product from 2-propanol-hexane yielded 3.55 g of (2E,4Z)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid 4-nitrophenyl ester, mp 111.5°-113° C.

reactant | (2E,4Z)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid | 3.2 g | COC1=CC=C(C=C1)\C(=C/C=C/C(=O)O)\C(C)C | C15H18O3
reactant | 4-nitrophenol | 2.2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 2.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (2E,4Z)-5-(4-methoxyphenyl)-6-methyl-2,4-heptadienoic acid 4-nitrophenyl ester | 3.55 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(\C(C)C)/C1=CC=C(C=C1)OC)=O | C21H21NO5
